US06706709B2
5-Bromo-3-[5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of 5-bromo-2-oxindole (46 mg, 0.22 mmol), 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde (60 mg, 0.22 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 65 mg (64%) of the title compound.

reactant | 5-bromo-2-oxindole | 0.22 mmol, 46 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.22 mmol, 60 mg | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-Bromo-3-[5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 65 mg, 64% | BrC=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCOCC1 | C23H22BrN3O3
